US09359340B2
MCPBA (35 g, 77%, 156 mmol) was added to a solution of methyl 2-(4-chlorophenyl)-acrylate (20 g, 102 mmol) in CHCl3 (200 mL). The mixture was refluxed for 24 hours. The reaction was cooled to room temperature, diluted with chloroform (200 mL) and washed with 10% Na2S2O3, 10% NaHCO3 and water. The organic phase was dried and concentrated. The residue was subject to column chromatography, eluted by hexane/ethyl acetate (9:1) to give methyl 2-(4-chlorophenyl)oxirane-2-carboxylate. Methyl 2-(4-chlorophenyl)oxirane-2-carboxylate (2 g, 9.4 mmol) and ethanol (10 mL) and isopropylamine (1 mL, 11.7 mmol) were added to a 50 mL high pressure bomb. The mixture was heated to 90° C. for 12 hours in the bomb. After cooling, the solvent was removed, and the residue was dissolved in DCM (20 mL) and TEA (2 mL). (Boc)2O (4 g, 23.0 mmol) was added to it. The mixture was stirred at room temperature for 48 hours. The solvent was removed, and the residue was dissolved in THF (20 mL). LiOH (3M, 14 mL) was added to the mixture. The mixture was stirred at room temperature for 16 hours and refluxed for 2 hours. After cooling, the mixture was quenched with 2N HCl (21 mL). The solvent was removed and the residue was subject to column chromatography, eluted by hexane/ethyl acetate (1:1) to give 3-(tert-butoxycarbonykisopropyl)amino)-2-(4-chlorophenyl)-2-hydroxypropanoic acid. LCMS (APCI+) [M−Boc+H]+ 258.1; Rf: 3.66 min.

reactant | Methyl 2-(4-chlorophenyl)oxirane-2-carboxylate | 9.4 mmol, 2 g | ClC1=CC=C(C=C1)C1(OC1)C(=O)OC | C10H9ClO3
reactant | isopropylamine | 11.7 mmol, 1 mL | C(C)(C)N | C3H9N
reactant | (Boc)2O | 23.0 mmol, 4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(4-chlorophenyl)-2-hydroxypropanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)(C)O | C9H9ClO3
